US05246948
Synthesis of 3-[3-(4-pyridylthio)propyl]-quinazoline-2,4(1H,3H)-dione
Under nitrogen atmosphere, to a solution of 718 mg (2.5 mmol) of 4-[3-(2-aminobenzoylamino)propylthio]pyridine in 15 ml of tetrahydrofuran. 811 mg (5.0 mmol) of 1,1'carbonyldiimidazole was added, and the mixture was stirred at room temperature for 16 hours. The solvent was distilled off and the residue was dissolved in chloroform. The solution was washed with water and dried. The solvent was distilled off and the residue was recrystallized from ethanol/chloroform/ether to give 514 mg of the desired product (65.7% yield, white crystals).

reactant | 4-[3-(2-aminobenzoylamino)propylthio]pyridine | 2.5 mmol, 718 mg | NC1=C(C(=O)NCCCSC2=CC=NC=C2)C=CC=C1 | C15H17N3OS
reactant | 1,1'carbonyldiimidazole | 5.0 mmol, 811 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-pyridylthio)propyl]-quinazoline-2,4(1H,3H)-dione | 514 mg, 65.7% yield | N1=CC=C(C=C1)SCCCN1C(NC2=CC=CC=C2C1=O)=O | C16H15N3O2S
